US04093812
Heat Then g. of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehydeoxime together with 3.4 g of phosphorus oxychloride in 20 ml of 1,2-dichloroethane for 1 hour under reflux. To the resulting product add ice together with 50 ml of water. The adjust the pH to from 3 to 4 with sodium hydrogen carbonate and remove the formed crystals by vacuum filtration. Wash the crystals with water to obtain a 96% yield of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carbonitrile [m.p. 237.5° to 239° C (from ethanol)].

reactant | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehydeoxime | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=NO | C8H6N4O4
reactant | phosphorus oxychloride | 3.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 50 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carbonitrile | 96% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C#N | C8H4N4O3
